US08349880B2
Step Q (2): Dichloromethane (125 mL) was added to a flask charged with 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline (5.00 g, 26.0 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (6.65 g, 28.6 mmol). The crude reaction was concentrated in vacuo. Methanolic ammonia (2.0 M, 150 mL, 300 mmol) was added at rt to the dark-red solid residue. A light brown precipitate resulted. After stirring for 30 min, the crude reaction mixture was chilled in a −20 C freezer for 1 h. The solid precipitate was collected using vacuum filtration. The solid was rinsed with cold methanol and dried under high vacuum to afford 1-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (5.48 g, 84% yield) as an off-white solid. LC-MS (M+H)+ 252.2. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.02 (br. s., 1 H), 8.80 (d, J=2.1 Hz, 1 H), 7.91 (dd, J=13.4, 2.1 Hz, 1 H), 7.66 (t, J=8.7 Hz, 1 H), 7.33 (dd, J=8.4, 2.0 Hz, 1 H), 2.36 (s, 3 H).

reactant | 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline | 26.0 mmol, 5.00 g | FC=1C=C(N)C=CC1N1N=C(N=C1)C | C9H9FN4
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 28.6 mmol, 6.65 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | ammonia | 300 mmol, 2.0 M, 150 mL | N | H3N
solvent | Dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 1-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 5.48 g, 84% yield | FC=1C=C(C=CC1N1N=C(N=C1)C)NC(=S)N | C10H10FN5S
